datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)O1.F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[C:20]2(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]2=[O:33])O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CC[O:92][C:61]([C:10](OC)([CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])CCC[S:41]1(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82].C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([C:10]2([C:81](C)=[O:82])CCC[O:72][C:61]2=[O:62])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][C:10](C1=CC=CC=C1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]#[N:82])[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[N:72](CC)[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32]>>CC[O:33][C:31]([C:20]1([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[C:61](=[O:62])[N:72](CC)CC)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C:11](C)(C)[H:10].C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C+:11](C)C.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][C-:10]([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC>>[H][C:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC 10=20
"C1C[N:62]2CC[NH:12][C:11]2=[N:10]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([N:10]1CC[N:62]4CC[NH+:12]=[C:11]14)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12"
"C1=CC=C([CH:20]=[O:21])C=C1.CC[O:82][C:71]([CH-:10][S+:61](C)C)=[O:72]>>CC[O:82][C:71]([CH:10]([CH:20](C1=CC=CC=C1)[O-:21])[S+:61](C)C)=[O:72] 10=20;20,21=21"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[O:64][C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]2=[CH:61][CH:62]=[C:63]([O:64]C)[CH:72]=[CH:71]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)=[O:72])=[O:62].C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>CC[O:82][C:61]([CH:10]([CH2:20][C:31]12C3([Si](C)(C)C)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[S:71](C1=CC=CC=C1)=[O:72])=[O:62] 10=20
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N:33](C)[C:22](=[CH:21][CH2:20][C:10](C1=CC=CC=C1)=[C:11]=[N+:12]1CCC[C:63]1=[O:64])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[C:10]([C:11]#[N:12])([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:81])=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
